US08809380B2
Step 1. (2R,4R)-1-tert-butyl 2-methyl 4-(benzyloxymethoxy)pyrrolidine-1,2-dicarboxylate
To a mixture of (2R,4R)-1-tert-butyl 2-methyl 4-hydroxypyrrolidine-1,2-dicarboxylate (2.12 g, 8.65 mmol) and N,N-diisopropylethylamine (3.01 mL, 17.3 mmol) in dichloromethane (30 mL) was added benzyl chloromethyl ether (2.71 g, 17.3 mmol). After stirring at room temperature for 18 h, the mixture was poured into water. The aqueous layer was extracted with dichloromethane three times. The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to afford an oil. The residual oil was purified by silica gel column chromatography (ethyl acetate/hexane 1:4 to 1:3) to give 2.29 g (72%) of the title compound as a colorless oil.

reactant | (2R,4R)-1-tert-butyl 2-methyl 4-hydroxypyrrolidine-1,2-dicarboxylate | 8.65 mmol, 2.12 g | O[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H19NO5
reactant | N,N-diisopropylethylamine | 17.3 mmol, 3.01 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl chloromethyl ether | 17.3 mmol, 2.71 g | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | water | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (2R,4R)-1-tert-butyl 2-methyl 4-(benzyloxymethoxy)pyrrolidine-1,2-dicarboxylate | 2.29 g, 72% | C(C1=CC=CC=C1)OCO[C@@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C19H27NO6
